US07576115B2
Synthesis of methyl 2-nitro-4-[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate
Using 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene (100 mg, 0.35 mmol) and methyl 2-nitro-4-hydrazinocarbonylbenzoate (93 mg, 0.39 mmol) as the starting materials, the desired product was obtained in the same manner as in Synthetic Example 65 as a yellow solid (147 mg, yield 83%)

reactant | 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.35 mmol, 100 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
reactant | methyl 2-nitro-4-hydrazinocarbonylbenzoate | 0.39 mmol, 93 mg | [N+](=O)([O-])C1=C(C(=O)OC)C=CC(=C1)C(=O)NN | C9H9N3O5
product | methyl 2-nitro-4-[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate | [N+](=O)([O-])C1=C(C(=O)OC)C=CC(=C1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC(=C(C=C1)Cl)Cl | C21H15Cl2N3O6S
